US08633189B2
2-(5-Methyl-2-nitro-phenyl)acetic acid (250 mg, 1.28 mmol) and HATU (443 mg, 1.17 mmol) were suspended in dichloromethane (5 mL) and treated with triethylamine (162 μL, 1.17 mmol) and morpholine (112 μL, 1.28 mmol). The solution was heated at 40° C. for 10 min. The reaction was washed with 1 N HCl and saturated sodium bicarbonate solution, dried over Na2SO4, filtered and concentrated in vacuo. Silica gel chromatography (1-10% methanol/dichloromethane) provided 2-(5-methyl-2-nitro-phenyl)-1-morpholino-ethanone as a white solid (267 mg, 87% yield). LC/MS m/z 265.0 [M+H]+. 1H NMR (400.0 MHz, DMSO-d6) S 7.97 (d, J=8.3 Hz, 1H), 7.33 (dd, J=1.3, 8.3 Hz, 1H), 7.27 (s, 1H), 4.10 (s, 2H), 3.66-3.64 (m, 2H), 3.59-3.54 (m, 4H), 3.43-3.41 (m, 2H), 2.39 (s, 3H).

reactant | 2-(5-Methyl-2-nitro-phenyl)acetic acid | 1.28 mmol, 250 mg | CC=1C=CC(=C(C1)CC(=O)O)[N+](=O)[O-] | C9H9NO4
reactant | HATU | 1.17 mmol, 443 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.17 mmol, 162 μL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 1.28 mmol, 112 μL | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol dichloromethane | CO.ClCCl
product | 2-(5-methyl-2-nitro-phenyl)-1-morpholino-ethanone | 267 mg, 87% yield | CC=1C=CC(=C(C1)CC(=O)N1CCOCC1)[N+](=O)[O-] | C13H16N2O4
